US07087632B2
MsCl (6.0 mmol) was added dropwise at 0° C. to a stirred solution of 3-diethylamino-1-propanol (6.0 mmol), TEA (6.0 mmol) in anhydrous DCM (6 mL), and the mixture was stirred at the same temperature for 10 min, and at room temperature for additional 1 h. After the removal of the solvent in vacuo, the solid residue was mixed with 4-chloro-3-nitrophenol (5.0 mmol), and K2CO3 (10 mmol) in anhydrous DMF (10 mL), following the general procedure III (Step A). The crude product is purified using silica gel column chromatography 5% MeOH/DCM as eluent to yield 2-chloro-5-(3-diethylamino-1-propoxy)nitrobenzene (1.3 g).

reactant | MsCl | 6.0 mmol | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-diethylamino-1-propanol | 6.0 mmol | C(C)N(CCCO)CC | C7H17NO
reactant | 4-chloro-3-nitrophenol | 5.0 mmol | ClC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | K2CO3 | 10 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-chloro-5-(3-diethylamino-1-propoxy)nitrobenzene | 1.3 g | ClC1=C(C=C(C=C1)OCCCN(CC)CC)[N+](=O)[O-] | C13H19ClN2O3
